US05792769
b) 2-Chlorobenzenesulfonic acid 3-[[1-N-(tert-butoxycarbonyl)piperidin-4-yl]methoxy]-5-carbomethoxyphenyl ester
A solution of triphenylphosphine (0.249 g, 0.95 mol) in tetrahydrofuran (20 mL) was treated with diethyl azodicarboxylate (0.131 mL, 0.83 mol) and allowed to stir at ambient temperature for 15 min. before the addition of 2-chlorobenzenesulfonic acid 3-hydroxy-5-carbomethoxyphenyl ester (0.25 g, 0.73 mol), as prepared in the preceding step, in tetrahydrofuran (5 mL) and N-tert-butoxycarbonyl-4-piperidinemethanol (0.165 g, 0.77 mol), as prepared in step f of Example 1. The reaction mixture was allowed to stir at ambient temperature overnight. The solvent was evaporated and treated with ether/hexane to produce a crystalline material, which was separated by filtration. The filtrate was evaporated to an oil, placed on a silica gel column, and eluted with 20% ethyl acetate/hexane. The appropriate fractions were evaporated to give 0.14 g of material. 1H-NMR (CDCl3 ; 300 MHz): δ 1.25 (m, 3H), 1.47 (s, 9H), 1.78 (m, 2H), 2.74 (t, 2H), 3.77 (d, 2H), 3.88 (s, 3H), 4.12 (m, 2H), 6.90 (t, 1H), 7.38 (m, 3H), 7.62 (m, 2H), 7.97 (m, 1H).

reactant | triphenylphosphine | 0.95 mol, 0.249 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.83 mol, 0.131 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2-chlorobenzenesulfonic acid 3-hydroxy-5-carbomethoxyphenyl ester | 0.73 mol, 0.25 g | OC=1C=C(C=C(C1)C(=O)OC)OS(=O)(=O)C1=C(C=CC=C1)Cl | C14H11ClO6S
reactant | N-tert-butoxycarbonyl-4-piperidinemethanol | 0.77 mol, 0.165 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CO | C11H21NO3
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-Chlorobenzenesulfonic acid 3-[[1-N-(tert-butoxycarbonyl)piperidin-4-yl]methoxy]-5-carbomethoxyphenyl ester | 0.14 g | C(C)(C)(C)OC(=O)N1CCC(CC1)COC=1C=C(C=C(C1)C(=O)OC)OS(=O)(=O)C1=C(C=CC=C1)Cl | C25H30ClNO8S
